US08865675B2
Synthesis of 1-(1-((6Z,9Z,28Z,31Z)-heptatriaconta-6,9,28,31-tetraen-19-yl)-1H-1,2,3-triazol-4-yl)-N,N-dimethylmethanamine (Compound 43)
A solution of dilinoleyl methyl azide (500 mg, 0.90 mmol) and 3-dimethylamino-1-propyne (75 mg, 0.90 mmol) in H2O and tert-butyl alcohol (1:1, 12 mL) was treated with sodium ascorbate (0.090 mmol, 17.94 taken from a 1M solution in water), followed by CuSO4.5H2O (2.3 mg, dissolved in 30 μL of water) and stirred (96 h). The solution was then diluted with H2O (50 mL) and extracted with CH2Cl2 (3×), dried (Na2SO4), filtered, concentrated and purified via column chromatography (2%→4% MeOH/CH2Cl2) to yield the title compound as a colorless oil (524 mg, 91%). 1H NMR (400 MHz, CDCl3, δH) 7.76 (br. s, 1H), 5.47-5.25 (m, 8H), 4.48 (p, 1H), 3.80 (br. s, 2H), 2.75 (app. t, 4H), 2.49 (s, 6H), 2.15-2.00 (m, 8H), 1.91-1.75 (m, 4H), 1.40-1.12 (m, 34H), 1.11-0.98 (m, 2H), 0.85 (t, 6H). FW 637.08, C42H76N4.

reactant | dilinoleyl methyl azide | 0.90 mmol, 500 mg | C(CCCCCCC\C=C/C\C=C/CCCCC)C(CCCCCCCC\C=C/C\C=C/CCCCC)N=[N+]=[N-] | C37H67N3
reactant | 3-dimethylamino-1-propyne | 0.90 mmol, 75 mg | CN(CC#C)C | C5H9N
reactant | sodium ascorbate | O=C1C(O)=C([O-])[C@H](O1)[C@@H](O)CO.[Na+]
solvent | H2O | O | H2O
solvent | tert-butyl alcohol | 12 mL | C(C)(C)(C)O | C4H10O
solvent | H2O | 50 mL | O | H2O
product | 1-(1-((6Z,9Z,28Z,31Z)-heptatriaconta-6,9,28,31-tetraen-19-yl)-1H-1,2,3-triazol-4-yl)-N,N-dimethylmethanamine | 524 mg, 91% | CCCCC\C=C/C\C=C/CCCCCCCCC(CCCCCCCC\C=C/C\C=C/CCCCC)N1N=NC(=C1)CN(C)C | C42H76N4
